2180-11-28 05:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Patient was to be called out in the am, however she had SBPs in the
   70's to 80's.  Asymptomatic.  Was given 500 cc IVF bolus x 2 with
   slight improvment in her pressures.  Was kept in the ICU overnight for
   continued monitoring.  States her SBPs at home run in the 100s.  Her
   BP's came up to the 110's to 120's overnight.
   - Was asked about her OSA and she states she hasn't used CPAP for the
   last 2 years.
   - KUB (prelim) showed no evidence of obstruction or ileus.
   - CXR PA and Lat showed: Opacity adjacent to the right heart border
   that could represent crowding of normal vasculature, however,
   atelectasis or pneumonia cannot be excluded.
   - PT stated patient was okay to walk with the knee immobilizer.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2180-11-27**] 06:10 PM
   Metronidazole - [**2180-11-27**] 10:23 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2180-11-27**] 06:08 AM
   Pantoprazole (Protonix) - [**2180-11-27**] 08:03 AM
   Heparin Sodium (Prophylaxis) - [**2180-11-27**] 10:24 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-11-28**] 05:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.8
   HR: 92 (87 - 98) bpm
   BP: 132/62(79) {71/42(35) - 192/168(173)} mmHg
   RR: 19 (15 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                 12,913 mL
                                                                    617 mL
   PO:
                                                                  1,080 mL
             TF:
   IVF:
                                                                  3,833 mL
                                                                    617 mL
   Blood products:
   Total out:
                                                                  5,240 mL
                                                                    100 mL
   Urine:
                                                                  2,940 mL
                                                                    100 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  7,673 mL
                                                                    517 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///14/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, No(t) Distended, Tender: mild to
   deep palpation
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   309 K/uL
   9.2 g/dL
   90 mg/dL
   1.1 mg/dL
   14 mEq/L
   3.6 mEq/L
   12 mg/dL
   116 mEq/L
   139 mEq/L
   28.3 %
   13.7 K/uL
        [image002.jpg]
                             [**2180-11-27**]  03:00 AM
                             [**2180-11-27**]  04:41 AM
                             [**2180-11-28**]  03:12 AM
   WBC
   17.5
   16.9
   13.7
   Hct
   28.7
   29.3
   28.3
   Plt
   299
   312
   309
   Cr
   1.4
   1.4
   1.1
   TropT
   0.02
   Glucose
   94
   88
   90
   Other labs: PT / PTT / INR:15.4/33.2/1.4, CK / CKMB /
   Troponin-T:46/3/0.02, Differential-Neuts:82.8 %, Lymph:12.1 %, Mono:4.1
   %, Eos:0.9 %, Lactic Acid:0.6 mmol/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL,
   PO4:4.0 mg/dL
   Assessment and Plan
   65 year old female with recent history of C. diff colitis who presented
   after a syncopal episode in the setting of diarrhea/dehydration with a
   hip disclocation
   # Hypotension: Likely due to profound dehydration from ongoing severe
   diarrhea.  Patient has been unable to maintain hydration and has
   required upwards of 10 L of IVF since her admission to the OSH ED.
   Here, patient has only received 2L of NS over the last several hours in
   the ED; however, despite SBPs in the 90s, she has not required
   pressors.  Syncope likely result of orthostatic hypotension.
   - Continue aggressive hydration overnight
   - Continue to treat for likely C. diff
   - As patient not currently toxic appearing will hold off on further
   antibiotics, can consider broadening coverage if any evidence of
   decompensation.
   - Check orthostatics x1 in am
   .
   # Leukocytosis: Highest on the differential is C. diff colitis given
   diarrhea and history.  CXR at OSH showed resolution of prior pna.
   Patient denies cough or fevers at home, though there is report of
   hypoxia as noted above.  CXR here appears to be clear, final read is
   pending.  Differential shows left shift without bandemia, no recent WBC
   for comparison.  UA negative.
   - Continue to treat with flagyl and will add PO vanc for C. diff
   coverage given initial WBC >20, diarrhea and hypotension
   - Continue to trend wbc with differential
   - Follow bcx, urine - here and from OSH
   - Send stool for culture, c. diff
   - Culture with spikes
   - Follow up final read of CXR
   - Expand coverage if any other localizing signs of infection
   .
   # Diarrhea: Ongoing for greater than one week.  Now with some mild
   abdominal discomfort. WBC 17, down from >20 at OSH.  Patient with
   continued stool output, history of C. diff in [**2177**] and multiple courses
   of recent abx.  C. diff highest on differential
   - Send stool for culture, c. diff
   - Treat with IV flagyl, PO vanco
   - Will check KUB given abdominal discomfort, can get CT if persists
   - Replete lytes prn
   - IVF
   .
   # Hypoxia: Transient in the setting of sedation for hip reduction.
   Sedation reversed with narcan and patient regained normal oxygen
   saturations.  Only requiring 2L nasal canula in the ED to maintain sats
   >95%.  However, patient has had multiple episodes of destauration as
   documented in OSH records per visiting nursing.
   - Continue supplemental oxygen, wean as tolerated
   - Monitor level of sedation
   - PA/Lat CXR in am to further evaluation for pna
   - Attempt to clarify hypoxia at home
   .
   # Hip dislocation: Status post reduction in the ED by ED staff and
   orthopedics.  Hip had dislocated multiple times in the past, usually
   reduced in OR.  Patient is currently in knee immbolizer, no plans for
   surgical intervention at this time.
   - Continue to follow ortho recs
   - PT in am
   - Knee immbolizier overnight
   - Pain control prn, has not required medication yet
   .
   # ARF: No recent creatinine for comparison, likely elevated from
   baseline given dehydration, pre-renal etiology. Was elevated to 2.17 at
   OSH, appears to be improving with hydration
   - Will obtain OSH records to assess baseline renal function
   - Send urine lytes in am if not improved with hydration
   .
   # ECG changes: ST depression in lateral precordial leads on ECG here in
   ED, not on prior ECG at OSH, likely demand ischemia given
   hypotension/dehydration. Patient denies chest pain, though she did have
   syncopal episode prior to admission.  Patient has no known cardiac
   history.  Two sets of CE negative.
   - Cycle CEs, last set in am (two sets negative, one here, one at OSH)
   - Repeat ECG in am
   - Continue ASA 81 mg, BP control
   .
   # Hypertension: Normotensive here, had been hypotensive in ED as above.
   - Hold home antihypertensives, restart pending improvement and
   normalization of pressures
   .
   # RLS: Continue requip
   .
   # Fibromyalgia: Continue neurontin, renally dose
   .
   # Anxiety/depression: Continue buproprion and prozac, clarify dose in
   am
   .
   # FEN: NPO for now, replete lytes prn, IVF overnight
   .
   # Access: RIJ/PIV
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2180-11-27**] 04:05 AM
   Multi Lumen - [**2180-11-27**] 04:06 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2180-11-28 11:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Was set to be transferred out of MICU yest pm but became hypotensive.
   Received total of 1L NS with SBP up to 100s appropriately. Still feels
   abd crampy sensation. Denies f/c. Further history re: pt's home OSA
   reveals that pt has been noncompliant w/ home NIPPV machine at home.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2180-11-27**] 06:10 PM
   Metronidazole - [**2180-11-28**] 06:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2180-11-28**] 08:00 AM
   Other medications:
   Neurontin, MVI, Wellbutrin, ASA, Prozac, Protonix, Requip
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-11-28**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 84 (84 - 98) bpm
   BP: 130/90(101) {71/43(35) - 192/168(173)} mmHg
   RR: 15 (15 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                 12,913 mL
                                                                  1,077 mL
   PO:
                                                                  1,080 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  3,833 mL
                                                                    717 mL
   Blood products:
   Total out:
                                                                  5,240 mL
                                                                  1,485 mL
   Urine:
                                                                  2,940 mL
                                                                  1,185 mL
   NG:
   Stool:
                                                                    300 mL
                                                                    300 mL
   Drains:
   Balance:
                                                                  7,673 mL
                                                                   -408 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///14/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Tender: B
   lower quadrants
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   309 K/uL
   90 mg/dL
   1.1 mg/dL
   14 mEq/L
   3.6 mEq/L
   12 mg/dL
   116 mEq/L
   139 mEq/L
   28.3 %
   13.7 K/uL
         [image002.jpg]
                             [**2180-11-27**]  03:00 AM
                             [**2180-11-27**]  04:41 AM
                             [**2180-11-28**]  03:12 AM
   WBC
   17.5
   16.9
   13.7
   Hct
   28.7
   29.3
   28.3
   Plt
   299
   312
   309
   Cr
   1.4
   1.4
   1.1
   TropT
   0.02
   Glucose
   94
   88
   90
   Other labs: PT / PTT / INR:15.4/33.2/1.4, CK / CKMB /
   Troponin-T:46/3/0.02, Differential-Neuts:82.8 %, Lymph:12.1 %, Mono:4.1
   %, Eos:0.9 %, Lactic Acid:0.6 mmol/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL,
   PO4:4.0 mg/dL
   Imaging: KUB- no obstruction, no dilated loops
   Assessment and Plan
   HYPOTENSION (NOT SHOCK)- likely hypovloemia due to profound diarrhea;
   was fluid responsive and appears to be resolved
   SYNCOPE- likely due to #1, now resolved. No head trauma
   DIARRHEA- in the setting of prior C. diff and recent ABX, recurr C.
   diff is most likely
   -toxin assay pending
   -KUB to eval for megacolon
   -will tx w/ PO vancomycin and IV metronidazole for now
   -non-gap metabolic acidosis goes along with this clinical picture
   HYPOXEMIA- transient, no evidence of infiltrate on CXR, monitor for
   edema given aggressive fluid resuscitation. Also low-suspicion but will
   check for resp viral syndromes
   -PA/lat CXR pending this am
   -screen for influenza and resp viral syndromes, and confirm vaccination
   status
    ARF- due to hypovolemia and resolving with IVF resuscitation
   -cont to monitor
   -avoid nephrotoxins
   ECG changes- no hx of CAD, but w/ transient, subtle STD in V3-V6
   -AM repeat ECG normalizing, cardiac enzymes x2 negative
   -given age and underlying smoking dz is at higher risk for occult CAD
   -will monitor clinically, follow ECGs
   -may need stress eval down the road
   -consider echo given syncope
   SLEEP-DISORDERED BREATHING- has hx of sleep apnea but noncompliant w/
   home NIPPV x 2yrs
   -will ask RT to eval for re-initiation of home NIPPV
    HIP DISLOCATION- stable post stabilization
   -Ortho consulted
   -PT/OT
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2180-11-27**] 04:06 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2180-11-29 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt called out yesterday but no bed available
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2180-11-27**] 06:10 PM
   Metronidazole - [**2180-11-28**] 06:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2180-11-28**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-11-29**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.3
C (97.4
   HR: 94 (81 - 95) bpm
   BP: 142/81(95) {93/46(60) - 143/108(129)} mmHg
   RR: 16 (12 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
                  Total In:
                                                                  1,557 mL
                                                                    360 mL
   PO:
                                                                    840 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    717 mL
   Blood products:
   Total out:
                                                                  3,710 mL
                                                                  1,300 mL
   Urine:
                                                                  3,010 mL
                                                                  1,200 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                 -2,153 mL
                                                                   -940 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///14/
   Physical Examination
   S: Denies any n/v/f/c, does endorse continued abdominal cramping which
   is not related to when she takes PO, located in b/l lower quadrants.
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bibasilar
   crackles noted otherwise clear : )
   Abdominal: Soft, Bowel sounds present, No(t) Distended, Tender: mild to
   deep palpation over b/l lower quadrants.
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   354 K/uL
   9.1 g/dL
   86 mg/dL
   0.8 mg/dL
   14 mEq/L
   3.4 mEq/L
   7 mg/dL
   111 mEq/L
   138 mEq/L
   27.5 %
   19.3 K/uL
         [image002.jpg]
                             [**2180-11-27**]  03:00 AM
                             [**2180-11-27**]  04:41 AM
                             [**2180-11-28**]  03:12 AM
                             [**2180-11-29**]  03:15 AM
   WBC
   17.5
   16.9
   13.7
   19.3
   Hct
   28.7
   29.3
   28.3
   27.5
   Plt
   299
   312
   309
   354
   Cr
   1.4
   1.4
   1.1
   0.8
   TropT
   0.02
   Glucose
   94
   88
   90
   86
   Other labs: PT / PTT / INR:15.4/33.2/1.4, CK / CKMB /
   Troponin-T:46/3/0.02, Differential-Neuts:82.8 %, Lymph:12.1 %, Mono:4.1
   %, Eos:0.9 %, Lactic Acid:0.6 mmol/L, Ca++:8.0 mg/dL, Mg++:1.6 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
   65 year old female with recent history of C. diff colitis who presented
   after a syncopal episode in the setting of diarrhea/dehydration with a
   hip disclocation
   # Leukocytosis: Leukocytosis showed an impressive increase from 13.7 to
   19.3. However clinically pt appears to be improving. She states her
   abdominal pain is improving, she has been afebrile and she has had no
   increase in bowel movements. Her pulmonary exam is also unremarkable
   save bibasilar crackles likely atelectasis. Pt has had a foley in will
   perform a U/A, urine cx and d/c foley.
   - Continue to treat with flagyl and will add PO vanc for C. diff
   coverage given initial WBC >20, diarrhea and hypotension
   - D/c foley check U/A, Urine Cx
   -Follow bcx
   - Culture with spikes
   - Expand coverage if any other localizing signs of infection
   .
   # Diarrhea: Ongoing for greater than one week, pt currently on a fecal
   management system.  Loose watery stools are still noted but appear to
   be decreased in amount. Pt abdominal cramping symptoms are still
   persistent but improved, cramps are most likely from C. diff colitis.
   Will trend WBC and monitor clinical status.
   - Treat with IV flagyl, PO vanco
   - Will continue to monitor abd cramping
   - Replete lytes prn
   .
   # Hypoxia: Transient in the setting of sedation for hip reduction.
   Initially was linked to sedation which was reversed with narcan and
   patient regained normal oxygen saturations.  Only requiring 2L nasal
   canula in the ED to maintain sats >95%.  She has a diagnosis of OSA and
   though she is ordered for CPAP at home she does not wear it. Pt was
   fitted for for CPAP yesterday and was able to tolerate it for a few
   hours last night. Pt also currently on no supplemental oxygen.
   - Continue CPAP at night
   .
   # Hip dislocation: Status post reduction in the ED by ED staff and
   orthopedics.  Hip had dislocated multiple times in the past, usually
   reduced in OR.  Patient is currently in knee immbolizer, no plans for
   surgical intervention at this time. Orthopaedics recommended seeing her
   as an outpatient as she was able to ambulate on her disclocation.
   - Continue to follow ortho recs
   - Continue Knee immbolizer.
   .
   # [**Last Name (un) 2406**]: Pt
s Creatinine intitally noted to be 1.4 not trended down to
   1.1 following IVF hydration. [**Last Name (un) 2406**] most likely pre-renal secondary to
   diarrhea.
   - Will continue to trend Creatinine
   .
   # Non-anion gap metabolic Acidosis: Likely secondary to diarrhea, will
   continue to monitor.
   .
   # RLS: Continue requip
   .
   # Fibromyalgia: Continue neurontin, renally dose
   .
   # Anxiety/depression: Continue buproprion and prozac, clarify dose in
   am
   .
   # FEN: NPO for now, replete lytes prn, IVF overnight
   .
   # Access: RIJ/PIV. Will d/c RIJ once an additional peripheral line is
   placed.
   .
   #. Dispo: Awaiting bed placement to floor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-11-27**] 04:06 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: [**Hospital 722**] transfer to floor status pending bed
   availability.

2180-11-29 10:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Incr wbc this am. No new sx. Per pt, abd crampy pain persistent. Did
   not tol NIPPV mask for more than a short while.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2180-11-27**] 06:10 PM
   Metronidazole - [**2180-11-28**] 06:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2180-11-29**] 08:21 AM
   Pantoprazole (Protonix) - [**2180-11-29**] 08:21 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-11-29**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 92 (81 - 95) bpm
   BP: 107/54(68) {93/46(60) - 142/108(129)} mmHg
   RR: 20 (12 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
                  Total In:
                                                                  1,557 mL
                                                                    600 mL
   PO:
                                                                    840 mL
                                                                    600 mL
   TF:
   IVF:
                                                                    717 mL
   Blood products:
   Total out:
                                                                  3,710 mL
                                                                  2,000 mL
   Urine:
                                                                  3,010 mL
                                                                  1,900 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                 -2,153 mL
                                                                 -1,400 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///14/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, R leg in immobilizer
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   354 K/uL
   86 mg/dL
   0.8 mg/dL
   14 mEq/L
   3.4 mEq/L
   7 mg/dL
   111 mEq/L
   138 mEq/L
   27.5 %
   19.3 K/uL
        [image002.jpg]
                             [**2180-11-27**]  03:00 AM
                             [**2180-11-27**]  04:41 AM
                             [**2180-11-28**]  03:12 AM
                             [**2180-11-29**]  03:15 AM
   WBC
   17.5
   16.9
   13.7
   19.3
   Hct
   28.7
   29.3
   28.3
   27.5
   Plt
   299
   312
   309
   354
   Cr
   1.4
   1.4
   1.1
   0.8
   TropT
   0.02
   Glucose
   94
   88
   90
   86
   Other labs: PT / PTT / INR:15.4/33.2/1.4, CK / CKMB /
   Troponin-T:46/3/0.02, Differential-Neuts:82.8 %, Lymph:12.1 %, Mono:4.1
   %, Eos:0.9 %, Lactic Acid:0.6 mmol/L, Ca++:8.0 mg/dL, Mg++:1.6 mg/dL,
   PO4:3.6 mg/dL
   Microbiology: Influenza DFA- neg
   Assessment and Plan
   SYNCOPE- likely due to #1, now resolved. No head trauma
   DIARRHEA- in the setting of prior C. diff and recent ABX, recurr C.
   diff is most likely
   -toxin assay pending
   -KUB to eval for megacolon
   -will tx w/ PO vancomycin and IV metronidazole for now
   -non-gap metabolic acidosis goes along with this clinical picture
   HYPOXEMIA- transient, no evidence of infiltrate on CXR, monitor for
   edema given aggressive fluid resuscitation. Also low-suspicion but will
   check for resp viral syndromes
   -influenza neg
    ARF- due to hypovolemia and resolving with IVF resuscitation
   -cont to monitor
   -avoid nephrotoxins
   ECG changes- no hx of CAD, but w/ transient, subtle STD in V3-V6
   -AM repeat ECG normalizing, cardiac enzymes x2 negative
   -given age and underlying smoking dz is at higher risk for occult CAD
   -will monitor clinically, follow ECGs
   -may need stress eval down the road
   SLEEP-DISORDERED BREATHING- has hx of sleep apnea but noncompliant w/
   home NIPPV x 2yrs
   -will ask RT to eval for re-initiation of home NIPPV; tolerating fo
   only a few hours
    HIP DISLOCATION- stable post stabilization
   -Ortho consulted; per their rec's needs knee immobilizer
   -PT/OT; needs to get out of bed
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2180-11-27**] 04:06 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes